US04920133
A mixture of sodium azide (0.03 mol), ammonium chloride (0.03 mol) and 3-(4-(2-quinolinylmethyloxy)benzyl)benzonitrile (0.01 mol) in dimethylformamide (20 ml) are heated at 100° C. for 18 hours. The reaction is poured into aqueous 10% sodium hydroxide solution and washed with ethyl acetate. The crystalline product is isolated by acidification and filtration to obtain 5-(3-(4-(2-quinolinylmethyloxy)benzyl)phenyl)tetrazole.

reactant | sodium azide | 0.03 mol | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.03 mol | [Cl-].[NH4+]
reactant | 3-(4-(2-quinolinylmethyloxy)benzyl)benzonitrile | 0.01 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C#N)C=CC2)C=C1 | C24H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(3-(4-(2-quinolinylmethyloxy)benzyl)phenyl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C=CC2)C2=NN=NN2)C=C1 | C24H19N5O
